### PR TITLE
feat(Algebra/Group/Defs): add positive natural exponentiation for semigroups

### PR DESCRIPTION
**Pull request by AydenLamp**
Introduce exponentiation for semigroups with positive natural exponents. This serves as a foundation for future results on Green’s relations and Rees matrix constructions in semigroups.
---
Co-authored-by: Howard Straubing <howard.straubing@bc.edu>
Soleil Repple <repple@bc.edu>
Nathan Hart-Hodgson <harthodg@bc.edu>

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wwylele** [comment]
I recall there was previous attempt of this and there was some problem

e.g. #22517 and [#mathlib4 > PNat powers in a semigroup](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/PNat.20powers.20in.20a.20semigroup/with/404717203)

File: Mathlib/Algebra/Group/SemigroupPow.lean [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+namespace Semigroup
+
+variable {S : Type*} [Semigroup S]
+
+/-- Exponentiation for semigroups over positive naturals. -/
+def pNatPow (x : S) (n : ℕ+) : S :=
+  @PNat.recOn n (fun _ => S) x (fun _ ih => ih * x)
+
+instance : Pow S ℕ+ where
+  pow := pNatPow
```
Comment (ScottCarnahan) [inline Mathlib/Algebra/Group/SemigroupPow.lean]:
```suggestion
instance : Pow S ℕ+ where
  pow x n := PNat.recOn n x (fun _ ih => ih * x)
```

File: Mathlib/Algebra/Group/SemigroupPow.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+@[simp] lemma pow_one : x ^ (1 : ℕ+) = x := by
+  rfl
+
+@[simp] lemma pow_succ : (x ^ n) * x = x ^ (n + 1) := by
+  induction n using PNat.recOn <;> rfl
+
+@[simp] lemma pow_add : x ^ m * x ^ n = x ^ (m + n) := by
+  induction n using PNat.recOn with
+  | one => rw [pow_one, pow_succ]
+  | succ k ih => simp_rw [← add_assoc, ← pow_succ, ← mul_assoc, ih]
```
Comment (ScottCarnahan) [inline Mathlib/Algebra/Group/SemigroupPow.lean]: These seem to have left and right reversed. In the case of monoids, the "simpler" form (also called simp-normal form) is on the right, and the name of the lemma describes the left side. If you really want them in this direction, you should change the names to reflect the left side.

File: Mathlib/Algebra/Group/SemigroupPow.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+  | succ n ih => simp only [← pow_succ, ← mul_assoc, ih]
+
+lemma pow_mul_comm : x ^ m * x ^ n = x ^ n * x ^ m := by rw [pow_add, add_comm, pow_add]
+
+lemma pow_mul_comm' : x ^ n * x = x * x ^ n := by
+  induction n using PNat.recOn with
+  | one    => rfl
+  | succ k ih => rw [← pow_succ, ← mul_assoc, ih]
+
+@[simp] lemma pow_mul : (x ^ n) ^ m = x ^ (m * n) := by
```
Comment (ScottCarnahan) [inline Mathlib/Algebra/Group/SemigroupPow.lean]: This also seems to have left and right reversed.

File: Mathlib/Algebra/Group/SemigroupPow.lean [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+  induction m using PNat.recOn with
+  | one    => rw [one_mul, pow_one]
+  | succ k ih =>
+    simp_rw [← pow_succ, ih, pow_add]
+    congr
+    ring
```
Comment (ScottCarnahan) [inline Mathlib/Algebra/Group/SemigroupPow.lean]:
```suggestion
    rw [← pow_succ, ih, pow_add, add_one_mul]
```

**Review by ScottCarnahan — COMMENTED** [review]
This is quite well-done for a first try! I just have a few comments.
